US06924278B2
To a solution of (3R)-1-benzyl-3-(2-naphthylmethyl)piperazine (3.23 g) and triethylamine (4.3 ml) in dichloromethane (60 ml) was added a solution of 3,5-dichlorobenzoyl chloride (6.0 g) in dichloromethane (10 ml) at 0° C. After stirring at room temperature for 3 hours, the mixture was quenched with water and extracted three times with ethyl acetate. The combined extracts were dried over magnesium sulfate, and evaporated under reduced pressure. The obtained residue was triturated with a mixture of dichloromethane and hexane to give (2R)-4-benzyl-1-(3,5-dichlorobenzoyl)-2-(2-naphthylmethyl)piperazine.

reactant | (3R)-1-benzyl-3-(2-naphthylmethyl)piperazine | 3.23 g | C(C1=CC=CC=C1)N1C[C@H](NCC1)CC1=CC2=CC=CC=C2C=C1 | C22H24N2
reactant | triethylamine | 4.3 ml | C(C)N(CC)CC | C6H15N
reactant | 3,5-dichlorobenzoyl chloride | 6.0 g | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (2R)-4-benzyl-1-(3,5-dichlorobenzoyl)-2-(2-naphthylmethyl)piperazine | C(C1=CC=CC=C1)N1C[C@H](N(CC1)C(C1=CC(=CC(=C1)Cl)Cl)=O)CC1=CC2=CC=CC=C2C=C1 | C29H26Cl2N2O
